US07001897B2
To a solution of 3-hydroxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine (2.64 g, 13.4 mmol) (obtained as described in Reference Example 70(7)) in dimethylformamide (80 ml) were added t-butyldiphenylsilane (6.97 ml, 26.8 mmol) and imidazole (1.82 g, 26.8 mmol) in an ice bath and the mixture was stirred in an ice bath overnight. After checking the completion of the reaction, methanol was added to the reaction mixture and the mixture was stirred for 30 minutes. The resulting mixture was partitioned between ethyl acetate and 1 0% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (4:3→3:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine (4.95 g, yield 85%) as a pale yellow solid.

reactant | 3-hydroxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine | 13.4 mmol, 2.64 g | OC1CN(C1)C=1OC=C(N1)C(=O)OC | C8H10N2O4
reactant | t-butyldiphenylsilane | 26.8 mmol, 6.97 ml | C(C)(C)(C)[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C16H20Si
reactant | imidazole | 26.8 mmol, 1.82 g | N1C=NC=C1 | C3H4N2
reactant | methanol | CO | CH4O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-t-butyldiphenylsilyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine | 4.95 g, yield 85% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1OC=C(N1)C(=O)OC | C24H28N2O4Si
